US08685975B2
To a solution of 2-(1-ethoxyethoxy)-3-methoxy-3-(4-morpholinophenyl)propanenitrile (0.60 g, 1.8 mmol) in anhydr MeOH (10 mL) under argon was added NH2OH.HCl (0.175 g, 2.5 mmol) and NaHCO3 (0.234 g, 2.8 mmol). The reaction was heated briefly at 75° C. then at 60° C. for 16 hrs. After cooling to room temp, the mixture was concentrated in vacuo to give (Z)-2-(1-ethoxyethoxy)-N′-hydroxy-3-methoxy-3-(4-morpholinophenyl)propanimidamide which was used in the next synthetic step without further purification (0.777 g).

reactant | 2-(1-ethoxyethoxy)-3-methoxy-3-(4-morpholinophenyl)propanenitrile | 1.8 mmol, 0.60 g | C(C)OC(C)OC(C#N)C(C1=CC=C(C=C1)N1CCOCC1)OC | C18H26N2O4
reactant | NH2OH.HCl | 2.5 mmol, 0.175 g | NO.Cl
reactant | NaHCO3 | 2.8 mmol, 0.234 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (Z)-2-(1-ethoxyethoxy)-N′-hydroxy-3-methoxy-3-(4-morpholinophenyl)propanimidamide | C(C)OC(C)OC(/C(/N)=N/O)C(C1=CC=C(C=C1)N1CCOCC1)OC | C18H29N3O5
